US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-ethynyl-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-ethynyl-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (40 mg) was dissolved in pyridine (0.3 ml), and a 40% methylamine solution (1 ml) was added to this solution, followed by stirring at room temperature for 5 hours. The solvent was distilled off under reduced pressure, and diethyl ether was added to the residue. Solids were collected by filtration to obtain the title compound (30 mg) as a brown powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-ethynyl-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 40 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)O)F)F | C18H8F4N2O3
reactant | methylamine | 1 ml | CN | CH5N
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-ethynyl-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 30 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C#C)NC)F)=O)C(=O)O)F)F | C19H12F3N3O3
